2176-09-03 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --lactate down to 1.3
   --dilt drip + lopressor 5 q4h prn
   --given albumin 5% (25g / 500mL) bolus // 500 LR bolus // 1L NS
   --issue w/a-line pressure measurement consistently 30-40 pts lower than
   noninvasive and manual BP measurements -> used noninvasives to guide
   therapy
   --inc dilaudid pca, dilaudid q3prn pain
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2176-9-3**] 07:24 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2176-9-2**] 07:21 PM
   Metoprolol - [**2176-9-3**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2176-9-3**] 07:42 AM
   Famotidine (Pepcid) - [**2176-9-3**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-3**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 148 (88 - 148) bpm
   BP: 151/66(89) {103/63(74) - 152/80(139)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
          Total In:
                                                                  6,304 mL
                                                                  1,539 mL
   PO:
          TF:
   IVF:
                                                                  2,504 mL
                                                                  1,039 mL
   Blood products:
   500 mL
   Total out:
                                                                  1,010 mL
                                                                  1,140 mL
   Urine:
                                                                    195 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
                                                                     85 mL
                                                                    220 mL
   Balance:
                                                                  5,294 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.33/49/95.[**Numeric Identifier 143**]/23/0
   Physical Examination
   GEN: obese female in no apparent distress, in pain, awake and Ox3,
   mildly lethargic post-procedure
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in LLQ (with dark
   liquid stool), pt with 3 JP drains draining serosanginous fluid.Pt with
   severe pain with palpation.
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   489 K/uL
   9.1 g/dL
   137 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.9 mEq/L
   11 mg/dL
   106 mEq/L
   141 mEq/L
   29.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2176-9-2**]  08:36 PM
                             [**2176-9-2**]  11:11 PM
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
   WBC
   24.9
   11.6
   Hct
   33.0
   32.9
   29.5
   Plt
   685
   489
   Cr
   0.9
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   27
   Glucose
   190
   137
   Other labs: PT / PTT / INR:13.2/25.8/1.1, CK / CKMB /
   Troponin-T:283/5/<0.01, Differential-Neuts:86.0 %, Lymph:5.8 %,
   Mono:5.0 %, Eos:0.1 %, Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   .
   .Ucx: with skin flora
   .
   CXR: with coiled NGT, clear lungs
   Assessment and Plan
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   .
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR after abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was was controlled.  However, she was NPO for her procedure and
   did not receive po medications.  She required large amounts of IV meds
   intra-op and post-op.  She was placed on a dilt gtt in the [**Hospital Unit Name 1**].  Pt
   tachycardia also affected by pain post-op and likely hypovolemia after
   surgery. Pt is NPO including medications. Note a-line measurements are
   approx 30-40 pts lower than noninvasive and manual measurements
   (initially they were concordant upon hitting floor). CE
s neg x1. Pt
   has required intermittent neo initially for BP support, may have been
   due to faulty BP measurement later.
   - rely on noninvasive BP measurement since a-line not accurate
   - cont dilt gtt at 15mg/hr start metop 5q4
   - patient becomes increasingly hypotensive then consider chemical
   cardioversion with amio or electrical cardioversion
   - repeat ECG
   - cont tele
   - hold on anti-coagulation given recent surgery
   - restart PO medications when able to tolerate po per surgery recs
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains drining serosang.
   - appreciate surgery recs
   - Cefazolin for only 24hr per surgery
   - pain control with dilaudid PCA
   - IV dilaudid prn
   - Zofran IV prn, ativan prn
   - NPO including meds
   - pulled NGT due to pt discomfort and improper position (coiled in
   esoph)
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF bolus and maintenence 100cc/hr
   .
   #. ST depression: Likely demand in the setting of rapid rate.  Pt
   without prior MI or documented CAD.  Pt with risk factors including
   hyperlipidmia and HTN. EF 40-50% on last ECHO. Pt not complaining of
   chest pain.  Likely demand in the setting of rapid rate.  Spoke with
   cards fellow on call and faxed ECG. Diffuse STD and TWI less likely
   coronoary and more likely rate related. CE
s neg x1.
   - cont to monitor tele and EKG as necessary
   .
   #Leukocytosis: WBC elevated to 24.9 post-op now down to 11.6.  Likely
   reactive in the setting of recent surgery. No bands.  Pt does meet SIRS
   criterea given tachycardia and elevated WBC. Pt is afebrile.  No
   complications during surgery such as bowel perf or other
   complications.  Lactate down to 1.3
   - cont cefazolin per surgery
   - will hold on additional abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #FEN: NPO including meds for at least 24 hrs. replete lytes, IVF as
   above
   .
   #. Ppx: heparin sq, H2 blocker
   .
   #.Access: 2 PIV, a-line, may need to place CVL if patient requires neo
   for BP support
   .
   #Dispo: ICU for now.
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-9-2**] 07:19 PM
   18 Gauge - [**2176-9-2**] 07:20 PM
   Arterial Line - [**2176-9-3**] 07:45 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: famotidine [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments: Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: FC
   Disposition: ICU until rate controlled, nausea controlled, taking POs

2176-09-04 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2176-9-3**] 09:39 AM
 TRANSTHORACIC ECHO - At [**2176-9-3**] 01:00 PM
 ARTERIAL LINE - STOP [**2176-9-3**] 05:26 PM
   .
   .
   --had run of NSVT. Mg, K, CE x1 normal, BP unchanged. No EKG changes.
   Still has inferior-lateral ST inversions noted before.
   --changed to po nodal agents at night, dilt ER 180 daily and metoprolol
   50 tid, this AM back to IV agents since pt nauseous
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2176-9-3**] 04:27 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-9-3**] 07:43 AM
   Pantoprazole (Protonix) - [**2176-9-3**] 01:21 PM
   Heparin Sodium (Prophylaxis) - [**2176-9-3**] 04:27 PM
   Metoprolol - [**2176-9-3**] 04:27 PM
   Lorazepam (Ativan) - [**2176-9-4**] 03:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-4**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 107 (68 - 125) bpm
   BP: 138/82(94) {105/55(68) - 157/99(114)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.7 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,491 mL
                                                                    710 mL
   PO:
             TF:
   IVF:
                                                                  2,991 mL
                                                                    710 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,180 mL
                                                                    695 mL
   Urine:
                                                                  1,750 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
                                                                    430 mL
                                                                    155 mL
   Balance:
                                                                  1,311 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   GEN: obese female in no apparent distress, in pain, awake and Ox3,
   mildly lethargic post-procedure
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in LLQ (with dark
   liquid stool), pt with 3 JP drains draining serosanginous fluid.Pt with
   severe pain with palpation.
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   511 K/uL
   8.6 g/dL
   89 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   12 mg/dL
   106 mEq/L
   141 mEq/L
   28.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2176-9-2**]  08:36 PM
                             [**2176-9-2**]  11:11 PM
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
   WBC
   24.9
   11.6
   10.5
   Hct
   33.0
   32.9
   29.5
   28.5
   Plt
   685
   489
   511
   Cr
   0.9
   0.7
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   190
   137
   89
   Other labs: PT / PTT / INR:13.2/25.8/1.1, CK / CKMB /
   Troponin-T:472/4/<0.01, Differential-Neuts:86.0 %, Lymph:5.8 %,
   Mono:5.0 %, Eos:0.1 %, Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   .
   .
   Ucx pending
   Assessment and Plan
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   .
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR after abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was was controlled.  However, she was NPO for her procedure and
   did not receive po medications.  She required large amounts of IV meds
   intra-op and post-op.  She was placed on a dilt gtt in the [**Hospital Unit Name 1**].  Pt
   tachycardia also affected by pain post-op and likely hypovolemia after
   surgery. Pt is NPO including medications. Note a-line measurements are
   approx 30-40 pts lower than noninvasive and manual measurements
   (initially they were concordant upon hitting floor). CE
s neg x1. Pt
   has required intermittent neo initially for BP support, may have been
   due to faulty BP measurement from a-line.
   - was on PO 180mg dilt SR and 50mg metoprolol TID, then reverted back
   to dilt drip and metop IV 5q6h, once taking Pos can resume PO meds and
   callout to floor
   - patient becomes increasingly hypotensive then consider chemical
   cardioversion with amio or electrical cardioversion
   - repeat ECG
   - cont tele
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains drining serosang.  Pulled NGT
   due to pt discomfort and improper position (coiled in esoph). Pt still
   has persistent nausea [**3-11**] post-op ileus and opioids.
   - appreciate surgery recs
   - Cefazolin for only 24hr per surgery
   - pain control with dilaudid PCA, IV dilaudid prn, toradol 3days
   - nausea: Zofran IV prn, ativan prn, raglan prn
   - NPO including meds, ice chips ok
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF bolus and maintenence 100cc/hr
   .
   #. ST depression: Likely demand in the setting of rapid rate.  Pt
   without prior MI or documented CAD.  Pt with risk factors including
   hyperlipidmia and HTN. EF 40-50% on last ECHO. Pt not complaining of
   chest pain.  Likely demand in the setting of rapid rate.  Spoke with
   cards fellow on call and faxed ECG. Diffuse STD and TWI less likely
   coronoary and more likely rate related. CE
s neg x1.
   - cont to monitor tele and EKG as necessary
   .
   #Leukocytosis: WBC elevated to 24.9 post-op now down to 10.5.  Likely
   reactive in the setting of recent surgery. No bands.  Pt does meet SIRS
   criterea given tachycardia and elevated WBC. Pt is afebrile.  No
   complications during surgery such as bowel perf or other
   complications.  Lactate down to 1.3. Has been afebrile
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #FEN: NPO including meds for at least 24 hrs. replete lytes, IVF as
   above
   .
   #.PPX: heparin sq, PPI
   .
   #.Access: 2 PIV
   .
   #Dispo: ICU for now.
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-9-2**] 07:19 PM
   18 Gauge - [**2176-9-2**] 07:20 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments: Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: FC
   Disposition: ICU until rate controlled, nausea controlled, taking POs
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 52 yo F Crohn's, multiple surgeries, known
   a-fib recent Crohn's flare (admit [**Date range (1) 9094**]) transferred to [**Hospital Unit Name **] for
   management of a-fib with rvr after abdominoperineal resection w/
   descending end-colostomy and ventral hernia repair.
      She had a 10 beat run nsvt overnight. She remains nauseated.
   Tm 98   BP 138/82   HR 70-120   RR   20  97% 2L
   Alert, c/o nausea, scant b/b rales, [**Last Name (un) **], + BS, binder in place, 3 JP
   drains/ostomy, ext warm
   Labs reviewed:  wbc 10.5, hct 29, cr 0.7, lactate 1.3, cx's pending
   Agree with plan to manage a-fib by changing back to dilt gtt/standing
   IV lopressor given continued nausea.  Post op ileus and narcotics
   further contributing to her nausea. Continue to manage with ativan,
   zofran adding reglan. Consider NG replacement if persists. NPO X ice
   chips.  Maintenance fluids while NPO.  PCA for pain control.  Her
   leukoctyosis has resolved and she remains AF. Cx if spikes. Additional
   surgical recs. ICU: 2 PIVs, PPI, sq hep. Remainder of plan as outlined
   in resident note.
   Remains in ICU pending improvement in nausea and ability to transition
   to PO meds
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2176-9-4**] 12:21 PM ------

2176-09-05 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --severe nausea, increased zofram to 8mg, ativan to 1mg, added reglan
   20 mg, gave compazine 10mg x1 w/ no effect
   --vomited ~1L dark green fluid
   --NGT placement unsuccesful
   --aggitated had to be restrained and given haldol 0.5mg
   --GI may attempt to place NGT bedside
   --pt complaining in AM about care and wishes to be xfer to [**Hospital1 1031**], now
   resolved and more satisfied
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2176-9-3**] 04:27 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-9-4**] 02:24 PM
   Heparin Sodium (Prophylaxis) - [**2176-9-4**] 11:56 PM
   Haloperidol (Haldol) - [**2176-9-5**] 03:33 AM
   Lorazepam (Ativan) - [**2176-9-5**] 03:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 146 (69 - 146) bpm
   BP: 190/97(115) {118/75(83) - 190/114(129)} mmHg
   RR: 28 (11 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.7 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,722 mL
                                                                    516 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,662 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                  1,120 mL
   Urine:
                                                                  1,350 mL
   NG:
                                                                  1,300 mL
                                                                  1,000 mL
   Stool:
   Drains:
                                                                    490 mL
                                                                    120 mL
   Balance:
                                                                   -418 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GEN: obese female in no apparent distress, in pain, awake and Ox3,
   mildly lethargic post-procedure
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in LLQ (with dark
   liquid stool), pt with 3 JP drains draining serosanginous fluid.Pt with
   severe pain with palpation.
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   509 K/uL
   8.9 g/dL
   98 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   139 mEq/L
   28.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2176-9-2**]  08:36 PM
                             [**2176-9-2**]  11:11 PM
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
   WBC
   24.9
   11.6
   10.5
   12.1
   Hct
   33.0
   32.9
   29.5
   28.5
   28.2
   Plt
   685
   489
   511
   509
   Cr
   0.9
   0.7
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   190
   137
   89
   98
   Other labs: PT / PTT / INR:13.2/25.8/1.1, CK / CKMB /
   Troponin-T:472/4/<0.01, Differential-Neuts:86.0 %, Lymph:5.8 %,
   Mono:5.0 %, Eos:0.1 %, Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   .
   Ucx
 pend
   .
   KUB - pend
   Assessment and Plan
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   .
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR after abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was was controlled.  However, she was NPO for her procedure and
   did not receive po medications.  She required large amounts of IV meds
   intra-op and post-op.  She was placed on a dilt gtt in the [**Hospital Unit Name 1**].  Pt
   tachycardia also affected by pain post-op and likely hypovolemia after
   surgery. Pt is NPO including medications. Note a-line measurements are
   approx 30-40 pts lower than noninvasive and manual measurements
   (initially they were concordant upon hitting floor). CE
s neg x1. Pt
   has required intermittent neo initially for BP support, may have been
   due to faulty BP measurement from a-line.
   - was on PO 180mg dilt SR and 50mg metoprolol TID, then reverted back
   to dilt drip and metop IV 5q6h, once taking Pos can resume PO meds and
   callout to floor
   - patient becomes increasingly hypotensive then consider chemical
   cardioversion with amio or electrical cardioversion
   - repeat ECG
   - cont tele
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains drining serosang.  Pulled NGT
   due to pt discomfort and improper position (coiled in esoph). Pt still
   has persistent nausea [**3-11**] post-op ileus and opioids.
   - appreciate surgery recs
   - Cefazolin for only 24hr per surgery
   - pain control with dilaudid PCA, IV dilaudid prn, toradol 3days
   - nausea: Zofran IV standing TID, reglan standing TID, erythromycin
   (per [**Doctor First Name 213**]) standing, ativan prn
   - will have GI or IR place NGT today
   - NPO including meds, ice chips ok
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF bolus and maintenence 100cc/hr
   .
   #. ST depression: Likely demand in the setting of rapid rate.  Pt
   without prior MI or documented CAD.  Pt with risk factors including
   hyperlipidmia and HTN. EF 40-50% on last ECHO. Pt not complaining of
   chest pain.  Likely demand in the setting of rapid rate.  Spoke with
   cards fellow on call and faxed ECG. Diffuse STD and TWI less likely
   coronoary and more likely rate related. CE
s neg x1.
   - cont to monitor tele and EKG as necessary
   .
   #Leukocytosis: WBC elevated to 24.9 post-op down to 10.5 yesterday, now
   12.1.  Likely reactive in the setting of recent surgery. No bands.  Pt
   does meet SIRS criterea given tachycardia and elevated WBC. Pt is
   afebrile.  No complications during surgery such as bowel perf or other
   complications.  Lactate down to 1.3. Has been afebrile
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #FEN: NPO including meds for at least 24 hrs. replete lytes, IVF per
   surgery can use D5 1/2NS
   .
   #.PPX: heparin sq, PPI
   .
   #.Access: 2 PIV
   .
   #Dispo: ICU for now.
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   EJ
   PICC line today
   Prophylaxis:
   DVT: SQH
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments: Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: FC
   Disposition: ICU until rate controlled, nausea controlled, taking POs

2176-09-06 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2176-9-5**] 12:28 PM
 BLOOD CULTURED - At [**2176-9-6**] 02:00 AM
   10 beats of PVCs
Vtach, resolved spontaneously.
   Has nausea when turning, reglan increased to 20 mg q6.
   NGT to suction.
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2176-9-3**] 04:27 PM
   Erythromycin - [**2176-9-6**] 05:30 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2176-9-5**] 11:00 AM
   Midazolam (Versed) - [**2176-9-5**] 01:00 PM
   Morphine Sulfate - [**2176-9-5**] 01:00 PM
   Pantoprazole (Protonix) - [**2176-9-5**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2176-9-6**] 12:00 AM
   Metoprolol - [**2176-9-6**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-6**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 124 (69 - 156) bpm
   BP: 139/91(101) {105/59(70) - 181/132(136)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.6 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,682 mL
                                                                  1,612 mL
   PO:
             TF:
   IVF:
                                                                  3,682 mL
                                                                  1,612 mL
   Blood products:
   Total out:
                                                                  5,385 mL
                                                                  1,655 mL
   Urine:
                                                                  2,960 mL
                                                                    970 mL
   NG:
                                                                  2,000 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                    425 mL
                                                                    135 mL
   Balance:
                                                                 -1,703 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   GEN: obese female in no apparent distress, in pain, awake and Ox3,
   mildly lethargic post-procedure
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in LLQ (with dark
   liquid stool), pt with 3 JP drains draining serosanginous fluid.Pt with
   severe pain with palpation.
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   538 K/uL
   8.1 g/dL
   85 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.4 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   25.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2176-9-2**]  08:36 PM
                             [**2176-9-2**]  11:11 PM
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
   WBC
   24.9
   11.6
   10.5
   12.1
   9.6
   Hct
   33.0
   32.9
   29.5
   28.5
   28.2
   25.4
   Plt
   685
   489
   511
   509
   538
   Cr
   0.9
   0.7
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   190
   137
   89
   98
   85
   Other labs: PT / PTT / INR:13.2/25.8/1.1, CK / CKMB /
   Troponin-T:472/4/<0.01, Differential-Neuts:72.2 %, Lymph:17.9 %,
   Mono:5.4 %, Eos:4.4 %, Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR after abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was was controlled.  However, she was NPO for her procedure and
   did not receive po medications.  She required large amounts of IV meds
   intra-op and post-op.  She was placed on a dilt gtt in the [**Hospital Unit Name 1**].  Pt
   tachycardia also affected by pain post-op and likely hypovolemia after
   surgery. Pt is NPO including medications. Note a-line measurements are
   approx 30-40 pts lower than noninvasive and manual measurements
   (initially they were concordant upon hitting floor). CE
s neg x1. Pt
   has required intermittent neo initially for BP support, may have been
   due to faulty BP measurement from a-line.
   - was on PO 180mg dilt SR and 50mg metoprolol TID, then reverted back
   to dilt drip and metop IV 5q6h, once taking Pos can resume PO meds and
   callout to floor
   - patient becomes increasingly hypotensive then consider chemical
   cardioversion with amio or electrical cardioversion
   - repeat ECG
   - cont tele
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains drining serosang.  Pulled NGT
   due to pt discomfort and improper position (coiled in esoph). Pt still
   has persistent nausea [**3-11**] post-op ileus and opioids.
   - appreciate surgery recs
   - Cefazolin for only 24hr per surgery
   - pain control with dilaudid PCA, IV dilaudid prn, toradol 3days
   - nausea: Zofran IV prn, ativan prn, reglan prn
   - NPO including meds, ice chips ok
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF bolus and maintenence 100cc/hr
   .
   #. ST depression: Likely demand in the setting of rapid rate.  Pt
   without prior MI or documented CAD.  Pt with risk factors including
   hyperlipidmia and HTN. EF 40-50% on last ECHO. Pt not complaining of
   chest pain.  Likely demand in the setting of rapid rate.  Spoke with
   cards fellow on call and faxed ECG. Diffuse STD and TWI less likely
   coronoary and more likely rate related. CE
s neg x1.
   - cont to monitor tele and EKG as necessary
   .
   #Leukocytosis: WBC elevated to 24.9 post-op down to 10.5 yesterday, now
   12.1.  Likely reactive in the setting of recent surgery. No bands.  Pt
   does meet SIRS criterea given tachycardia and elevated WBC. Pt is
   afebrile.  No complications during surgery such as bowel perf or other
   complications.  Lactate down to 1.3. Has been afebrile
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #FEN: NPO including meds for at least 24 hrs. replete lytes, IVF as
   above
   .
   #.PPX: heparin sq, PPI
   .
   #.Access: 2 PIV
   .
   #Dispo: ICU for now.
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-9-2**] 07:20 PM
   PICC line
   Prophylaxis:
   DVT: SQH
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments: Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: FC
   Disposition: ICU until rate controlled, nausea controlled, taking POs

2176-09-06 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2176-9-5**] 12:28 PM
 BLOOD CULTURED - At [**2176-9-6**] 02:00 AM
   .
   --NGT placed
   --KUB: no obstruction
   --morphine PCA, with IV bolus prn
   --increased to reglan 20 q6
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2176-9-3**] 04:27 PM
   Erythromycin - [**2176-9-6**] 05:30 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2176-9-5**] 11:00 AM
   Midazolam (Versed) - [**2176-9-5**] 01:00 PM
   Morphine Sulfate - [**2176-9-5**] 01:00 PM
   Pantoprazole (Protonix) - [**2176-9-5**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2176-9-6**] 12:00 AM
   Metoprolol - [**2176-9-6**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 124 (69 - 156) bpm
   BP: 139/91(101) {105/59(70) - 181/132(136)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.6 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,682 mL
                                                                  1,807 mL
   PO:
             TF:
   IVF:
                                                                  3,682 mL
                                                                  1,807 mL
   Blood products:
   Total out:
                                                                  5,385 mL
                                                                  1,655 mL
   Urine:
                                                                  2,960 mL
                                                                    970 mL
   NG:
                                                                  2,000 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                    425 mL
                                                                    135 mL
   Balance:
                                                                 -1,703 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   GEN: obese female in no apparent distress, in pain, awake and Ox3,
   mildly lethargic post-procedure
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in LLQ (with dark
   liquid stool), pt with 3 JP drains draining serosanginous fluid.Pt with
   severe pain with palpation.
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   538 K/uL
   8.1 g/dL
   85 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.4 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   25.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2176-9-2**]  08:36 PM
                             [**2176-9-2**]  11:11 PM
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
   WBC
   24.9
   11.6
   10.5
   12.1
   9.6
   Hct
   33.0
   32.9
   29.5
   28.5
   28.2
   25.4
   Plt
   685
   489
   511
   509
   538
   Cr
   0.9
   0.7
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   190
   137
   89
   98
   85
   Other labs: PT / PTT / INR:13.2/25.8/1.1, CK / CKMB /
   Troponin-T:472/4/<0.01, Differential-Neuts:72.2 %, Lymph:17.9 %,
   Mono:5.4 %, Eos:4.4 %, Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   .
   CXR:
   .
   KUB: nl
   Assessment and Plan
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   .
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR after abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was was controlled.  However, she was NPO for her procedure and
   did not receive po medications.  She required large amounts of IV meds
   intra-op and post-op.  She was placed on a dilt gtt in the [**Hospital Unit Name 1**].  Pt
   tachycardia also affected by pain post-op and likely hypovolemia after
   surgery. Pt is NPO including medications. Note a-line measurements are
   approx 30-40 pts lower than noninvasive and manual measurements
   (initially they were concordant upon hitting floor). CE
s neg x1. Pt
   has required intermittent neo initially for BP support, may have been
   due to faulty BP measurement from a-line.
   - was on PO 180mg dilt SR and 50mg metoprolol TID, then reverted back
   to dilt drip and metop IV 5q6h, once taking Pos can resume PO meds and
   callout to floor
   - patient becomes increasingly hypotensive then consider chemical
   cardioversion with amio or electrical cardioversion
   - repeat ECG
   - cont tele
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains drining serosang.  Pulled NGT
   due to pt discomfort and improper position (coiled in esoph). Pt still
   has persistent nausea [**3-11**] post-op ileus and opioids.
   - appreciate surgery recs
   - Cefazolin for only 24hr per surgery
   - pain control with dilaudid PCA, IV dilaudid prn, toradol 3days
   - nausea: Zofran IV prn, ativan prn, reglan prn
   - NPO including meds, ice chips ok
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF bolus and maintenence 100cc/hr
   .
   #. ST depression: Likely demand in the setting of rapid rate.  Pt
   without prior MI or documented CAD.  Pt with risk factors including
   hyperlipidmia and HTN. EF 40-50% on last ECHO. Pt not complaining of
   chest pain.  Likely demand in the setting of rapid rate.  Spoke with
   cards fellow on call and faxed ECG. Diffuse STD and TWI less likely
   coronoary and more likely rate related. CE
s neg x1.
   - cont to monitor tele and EKG as necessary
   .
   #Leukocytosis: WBC elevated to 24.9 post-op down to 10.5 yesterday, now
   12.1.  Likely reactive in the setting of recent surgery. No bands.  Pt
   does meet SIRS criterea given tachycardia and elevated WBC. Pt is
   afebrile.  No complications during surgery such as bowel perf or other
   complications.  Lactate down to 1.3. Has been afebrile
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #FEN: NPO including meds for at least 24 hrs. replete lytes, IVF as
   above
   .
   #.PPX: heparin sq, PPI
   .
   #.Access: 2 PIV
   .
   #Dispo: ICU for now.
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-9-5**] 09:45 AM
   PICC Line - [**2176-9-5**] 12:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-09-07 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Surgery recommends adequate rate control for A. fib. Asked about
   calling cards, consult held. Increased Metoprolol to 20 mg IV Q4H.
   Started digoxin. On dilt gtt. Decreased to 5mg this am
   --Patient not agitated.
   --able to tolerate sitting in a chair
   --nausea under better control
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2176-9-6**] 12:00 PM
   Infusions:
   Diltiazem - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-9-7**] 12:00 AM
   Metoprolol - [**2176-9-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-7**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 93 (75 - 107) bpm
   BP: 152/83(99) {123/59(75) - 155/105(119)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.6 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  5,400 mL
                                                                  1,577 mL
   PO:
             TF:
   IVF:
                                                                  5,400 mL
                                                                  1,577 mL
   Blood products:
   Total out:
                                                                  5,200 mL
                                                                  1,955 mL
   Urine:
                                                                  4,110 mL
                                                                  1,245 mL
   NG:
                                                                    650 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                    440 mL
                                                                    155 mL
   Balance:
                                                                    200 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   GEN: obese female in no apparent distress, awake and Ox3,
   HEENT: NG in place
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA b/l, no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in [**Name (NI) 5810**], pt with 3 JP
   drains draining serosanginous fluid.
    SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3.
   Labs / Radiology
   506 K/uL
   8.0 g/dL
   81 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.2 mEq/L
   5 mg/dL
   102 mEq/L
   142 mEq/L
   25.7 %
   11.0 K/uL
        [image002.jpg]
                             [**2176-9-2**]  11:11 PM
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
                             [**2176-9-6**]  04:14 PM
                             [**2176-9-7**]  03:09 AM
   WBC
   11.6
   10.5
   12.1
   9.6
   11.0
   Hct
   32.9
   29.5
   28.5
   28.2
   25.4
   25.7
   Plt
   489
   511
   509
   538
   506
   Cr
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   137
   89
   98
   85
   81
   Other labs: PT / PTT / INR:17.9/27.9/1.6, CK / CKMB /
   Troponin-T:472/4/<0.01, ALT / AST:[**11-19**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:75.7 %, Lymph:14.9 %, Mono:5.6 %, Eos:3.6 %,
   Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L, LDH:156 IU/L, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR after abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was was controlled.  However, she was NPO for her procedure and
   did not receive po medications.  She required large amounts of IV meds
   intra-op and post-op.  She was placed on a dilt gtt in the [**Hospital Unit Name 1**].  Pt
   tachycardia also affected by pain post-op and likely hypovolemia after
   surgery. Pt is NPO including medications.  Was dig loaded yesterday. HR
   is under better control 90-100s on current regimen.
   - cont metoprolol 20mg IV q4h, cont dig 0.125mg daily
   - dc dilt drip
   - cont tele
   - call out if HR <115
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains drining serosang.  Pt still
   has persistent nausea [**3-11**] post-op ileus and opioids, but now under much
   better control w. meds and NGT.
   - f/u surgery recs
   - pain control with morphine PCA
   - nausea: Zofran IV prn, ativan prn, reglan prn
   - NPO including meds, ice chips ok
   - monitor drain output
   - monitor UOP >30cc/hr
   .
   #. ST depression: Likely demand in the setting of rapid rate.  Pt
   without prior MI or documented CAD.  Pt with risk factors including
   hyperlipidmia and HTN. EF 40-50% on last ECHO. Pt not complaining of
   chest pain.  Likely demand in the setting of rapid rate.  Spoke with
   cards fellow on call and faxed ECG. Diffuse STD and TWI less likely
   coronoary and more likely rate related. CE
s neg x1.
   - cont to monitor tele and EKG as necessary
   .
   #Leukocytosis: WBC elevated to 24.9 post-op down to 11.0 today.  Likely
   reactive in the setting of recent surgery. No bands.  Pt does meet SIRS
   criterea given tachycardia and elevated WBC. Pt is afebrile.  No
   complications during surgery such as bowel perf or other complications.
   Has been afebrile
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .  .
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-9-5**] 09:45 AM
   PICC Line - [**2176-9-5**] 12:28 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Possible call out to floor if HR <115
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 9173**]
s note and agree
   with his findings and plan of care. Mrs [**Known lastname 669**] is previously known to
   me. She is doing well from a post op surgical belly point of view.  Her
   stay in the MICU is for her Afib with RVR, accompanied by EKG ST
   changes which have resolved.  Her rate control is improved with the
   start of digoxin in rather low dose, along with Metoprolol and a
   Diltiazem drip.  The last of these is only at 5mg/hr and with a HR of
   100 we will stop the Dilt and observe the patient.  If her HR stays
   below 120 we feel she can be transferred to the surgical floor on Dig
   and Metoprolol.  Once taking po
s she can be transitioned to her prior
   Afib regimen of meds.  Surgical team has rounded on her and has
   discussed her case with us.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2176-9-7**] 02:21 PM ------

2176-09-09 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2176-9-8**] 11:45 AM
   No other overnight events
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2176-9-6**] 12:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-9-9**] 04:36 AM
   Lorazepam (Ativan) - [**2176-9-9**] 05:20 AM
   Diltiazem - [**2176-9-9**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-9**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 97 (84 - 124) bpm
   BP: 122/67(81) {120/67(81) - 156/101(114)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.3 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                    996 mL
                                                                    600 mL
   PO:
             TF:
   IVF:
                                                                    996 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    855 mL
   Urine:
                                                                  1,550 mL
                                                                    800 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    215 mL
                                                                     55 mL
   Balance:
                                                                   -819 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   GEN: obese female in no apparent distress, comfortalble, awake and Ox3
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in [**Name (NI) 5810**], pt with 3 JP
   drains draining serosanginous fluid. hypocative BS, tenderness to
   palpation
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   511 K/uL
   9.0 g/dL
   64 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   5 mg/dL
   96 mEq/L
   138 mEq/L
   28.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
                             [**2176-9-6**]  04:14 PM
                             [**2176-9-7**]  03:09 AM
                             [**2176-9-9**]  05:19 AM
   WBC
   11.6
   10.5
   12.1
   9.6
   11.0
   13.1
   Hct
   29.5
   28.5
   28.2
   25.4
   25.7
   28.6
   Plt
   489
   511
   509
   538
   506
   511
   Cr
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   137
   89
   98
   85
   81
   64
   Other labs: PT / PTT / INR:17.9/27.9/1.6, CK / CKMB /
   Troponin-T:472/4/<0.01, ALT / AST:[**11-19**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:75.7 %, Lymph:14.9 %, Mono:5.6 %, Eos:3.6 %,
   Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L, LDH:156 IU/L, Ca++:8.2
   mg/dL, Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   BCx - pending
   Assessment and Plan
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   ASSESSMENT AND PLAN: 52-year-old female with PMH significant for
   Crohn's Disease requiring multiple prior surgeries, atrial fibrillation
   who presents with a-fib w/ RVR s/p abdominoperineal resection, end
   colostomy (decending) and ventral hernia repeair with mesh.
   .
   #. A-fib w/ RVR: Pt is unable to take po given surgery. Was started on
   digoxin and also on q4 IV dosing of dilt and lopressor.  The regimen
   was to frequent for nursing on the floors and was therefore transferred
   back to the ICU. Pt home regimen is 180mg dilt SR and 100mg metoprolol
   TID po as her home regimen was was controlled.  She is currently on
   approx equivalent IV dosing of dilt and metoprolol.
   - will give additional 0.125 dig and then cont 0.25mg IV tomorrow (pt
   was not fully loaded)
   - cont IV metoprolol 20mg q4
   - cont IV dilt 15mg q4 (attempt to [**Month (only) **] interval once digoxin loaded)
   - cont tele
   - hold on anti-coagulation given recent surgery
   - restart PO medications when able to tolerate po
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains draining serosang.
   - appreciate surgery recs
   - pain control with morphine PCA
   - Zofran and reglan for nausea
   - NPO including meds, cont NG tube
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF maintenence 100cc/hr
   .
   #Leukocytosis: WBC elevated to 24.9 post-op, down to 15.0.  Likely
   reactive in the setting of recent surgery. No bands.  Pt does meet SIRS
   criterea given tachycardia and elevated WBC. Pt is afebrile. UCx no
   growth. Blood cultures NGTD
   - f/u Blood Cx
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #. Crohn's Disease: Pt with multiple [**Doctor First Name 213**] and complications.  s/p abd
   surgery. Pt is no longer on Humira.  Holding po meds, thus unable to
   take Mesalamine. Will restart when able to tolerate po.
   .
   #FEN: NPO including meds, replete lytes, IVF maintenence
   .
   #. Ppx: heparin sq, PPI
   .
   #.Access: PICC, 18g PIV
   .
   #Dispo: ICU for now.
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-9-8**] 11:44 AM
   PICC Line - [**2176-9-8**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-9-8**] 11:44 AM
   PICC Line - [**2176-9-8**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2176-09-09 12:52:00 Physician Attending Progress Note
Chief Complaint: Afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's HR modestly well controlled on present regimen; HR now above
   100. BP stable.
   Afebrile. O2 sats in the 90's on minimal oxygen supplementation.
   Urine output good.
   24 Hour Events:
 PICC LINE - START [**2176-9-8**] 11:45 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2176-9-9**] 05:20 AM
   Metoprolol - [**2176-9-9**] 08:34 AM
   Diltiazem - [**2176-9-9**] 10:34 AM
   Other medications:
   Digoxin, reglan, morphine, protonix, sc heparin, flovent.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-9**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 87 (84 - 117) bpm
   BP: 129/72(87) {120/67(81) - 156/101(114)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.3 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                    996 mL
                                                                  1,059 mL
   PO:
             TF:
   IVF:
                                                                    996 mL
                                                                  1,059 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                  1,350 mL
   Urine:
                                                                  1,550 mL
                                                                  1,295 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    215 mL
                                                                     55 mL
   Balance:
                                                                   -819 mL
                                                                   -291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal, No(t) Absent), (S2: Normal,
   No(t) Distant, No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral lung fields)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   511 K/uL
   64 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   5 mg/dL
   96 mEq/L
   138 mEq/L
   28.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2176-9-2**]  11:30 PM
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
                             [**2176-9-6**]  04:14 PM
                             [**2176-9-7**]  03:09 AM
                             [**2176-9-9**]  05:19 AM
   WBC
   11.6
   10.5
   12.1
   9.6
   11.0
   13.1
   Hct
   29.5
   28.5
   28.2
   25.4
   25.7
   28.6
   Plt
   489
   511
   509
   538
   506
   511
   Cr
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   137
   89
   98
   85
   81
   64
   Other labs: PT / PTT / INR:17.9/27.9/1.6, CK / CKMB /
   Troponin-T:472/4/<0.01, ALT / AST:[**11-19**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:75.7 %, Lymph:14.9 %, Mono:5.6 %, Eos:3.6 %,
   Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L, LDH:156 IU/L, Ca++:8.2
   mg/dL, Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   ANEMIA
   Ventricular rate still marginally high on present regimen. Digoxin
   started. Patient had required high doses of nodal blockers as
   outpatient to maintain appropriate heart rate.
   Hct down likely from blood loss during surgery. No evidence of ongoing
   bleeding. Not at transfusion threshold.
   WBC up slightly. Recheck UA/culture. Patient remains afebrile.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-9-8**] 11:44 AM
   PICC Line - [**2176-9-8**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2176-09-10 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --Changed rate control meds to diltiazem 90mg qid and metoprolol 100mg
   tid per NG with metoprolol 10mg IV for breakthrough
   --Added tums for heartburn relief
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2176-9-9**] 02:15 PM
   Metoprolol - [**2176-9-9**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 86 (74 - 148) bpm
   BP: 137/118(123) {100/53(63) - 154/118(123)} mmHg
   RR: 19 (11 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.3 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,091 mL
                                                                    242 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  2,091 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  3,213 mL
                                                                    375 mL
   Urine:
                                                                  2,645 mL
                                                                    300 mL
   NG:
                                                                    328 mL
   Stool:
   Drains:
                                                                    240 mL
                                                                     75 mL
   Balance:
                                                                 -1,122 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   GEN: obese female in no apparent distress, comfortalble, awake and Ox3
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA no wheezes or crackles
   ABD: obese, pt with abdominal binder, colostomy in [**Name (NI) 5810**], pt with 3 JP
   drains draining serosanginous fluid. hypocative BS, tenderness to
   palpation
   SKIN: pale complexion, no bruises noted,
   EXT: 2+pedal pulses, 1+ bilateral edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spon moving all ext. No
   focal deficits
   Labs / Radiology
   544 K/uL
   9.1 g/dL
   86 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.9 mEq/L
   4 mg/dL
   95 mEq/L
   136 mEq/L
   29.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
                             [**2176-9-6**]  04:14 PM
                             [**2176-9-7**]  03:09 AM
                             [**2176-9-9**]  05:19 AM
                             [**2176-9-10**]  05:24 AM
   WBC
   11.6
   10.5
   12.1
   9.6
   11.0
   13.1
   11.8
   Hct
   29.5
   28.5
   28.2
   25.4
   25.7
   28.6
   29.8
   Plt
   489
   511
   509
   538
   506
   511
   544
   Cr
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   137
   89
   98
   85
   81
   64
   86
   Other labs: PT / PTT / INR:19.7/29.4/1.8, CK / CKMB /
   Troponin-T:472/4/<0.01, ALT / AST:[**11-19**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:75.7 %, Lymph:14.9 %, Mono:5.6 %, Eos:3.6 %,
   Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L, LDH:156 IU/L, Ca++:8.1
   mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Digoxin level
 pending
   BCx, Ucx, MRSA screen
 pending
   CXR
 no evidence of pneumonia
   Assessment and Plan
 MUSCLE PERFORMACE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   ASSESSMENT AND PLAN:
   52-year-old female with PMH of A-fib, Crohn
s disease s/p multiple
   prior surgeries transferred from surgery for A-fib w/ RVR following
   abdominoperineal resection, end colostomy, and ventral hernia repeair
   with mesh.
   .
   #. A-fib w/ RVR: Pt tolerating taking medications through NG tube since
   last night.  Had initially been on q4 IV dosing of dilt and lopressor
   following surgery which was too frequent to be administered by nursing
   on the floors and was therefore transferred back to the ICU. Pt home
   regimen is 180mg dilt SR and 100mg metoprolol TID po and was
   controlled.  She is currently on dilt 90mg q6 and metoprolol 100mg tid
   - cont digoxin 0.25mg IV
   - continue PO metoprolol 100 mg TID, with metoprolol 10 mg IV PRN
   - continue PO diltiazem 90 mg QID
   - hold anti-coagulation given recent surgery
   - f/u digoxin level
   .
   #. Abdominal Surgery: abdominoperineal resection, end colostomy
   (decending) and ventral hernia repeair with mesh. Pt being followed by
   surgery. Pt with colostomy and JP drains draining serosanguenous fluid
   - appreciate surgery recs
   - pain control with morphine PCA
   - zofran and reglan for nausea
   - NPO except meds
   - monitor drain output
   - monitor UOP >30cc/hr
   - maintain MAPS >60
   - IVF maintenence with LR - 80cc/hr
   .
   #Leukocytosis: WBC elevated to 24.9 post-op, down to 11.8.  Likely
   reactive in the setting of recent surgery.  Pt has been afebrile.  Past
   UCx and BCx NGTD
   - f/u BCx, Ucx
   - will hold on abx unless spikes or unstable
   - monitor fevers and WBC
   .
   #. Crohn's Disease: Pt with multiple [**Doctor First Name 213**] and complications.  s/p abd
   surgery. Pt is no longer on Humira.  Mesalamine held because unable to
   take meds by mouth
   - restart mesalamine
   .
   #FEN: NPO including meds, replete lytes, IVF maintenence
   .
   #. Ppx: heparin sq, PPI
   .
   #.Access: PICC, 18g PIV
   .
   #Dispo: likely to be called out today
   .
   #Code Status: Full Code
   .
   #Comm: [**Name (NI) 186**] [**Name2 (NI) 861**] [**Telephone/Fax (1) 9072**]
   ICU Care
   Nutrition: NPO except meds
   Glycemic Control:
   Lines:
   PICC Line - [**2176-9-8**] 11:45 AM
   Prophylaxis:
   DVT: p-boots, heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely to be called out today

2176-09-10 12:19:00 Physician Attending Progress Note
Chief Complaint: Afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient taking some of meds through NG tube and orally now. HR is the
   mid-80's this AM.  Ambulating without difficulty. Abdominal pain under
   control with PCA.
   24 Hour Events:
                        History obtained from Patient
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2176-9-9**] 02:15 PM
   Metoprolol - [**2176-9-9**] 05:44 PM
   Other medications:
   Reglan, morphine, dig, flovent, serevent, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-10**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 76 (67 - 148) bpm
   BP: 95/53(63) {95/53(63) - 148/118(123)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.3 kg (admission): 120.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,091 mL
                                                                    291 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  2,091 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  3,213 mL
                                                                  1,215 mL
   Urine:
                                                                  2,645 mL
                                                                  1,100 mL
   NG:
                                                                    328 mL
   Stool:
   Drains:
                                                                    240 mL
                                                                    115 mL
   Balance:
                                                                 -1,122 mL
                                                                   -924 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: , Obese, Diminshed bowel sounds
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   544 K/uL
   86 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.9 mEq/L
   4 mg/dL
   95 mEq/L
   136 mEq/L
   29.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2176-9-3**]  04:11 AM
                             [**2176-9-3**]  01:53 PM
                             [**2176-9-3**]  10:08 PM
                             [**2176-9-4**]  04:49 AM
                             [**2176-9-5**]  03:31 AM
                             [**2176-9-6**]  02:08 AM
                             [**2176-9-6**]  04:14 PM
                             [**2176-9-7**]  03:09 AM
                             [**2176-9-9**]  05:19 AM
                             [**2176-9-10**]  05:24 AM
   WBC
   11.6
   10.5
   12.1
   9.6
   11.0
   13.1
   11.8
   Hct
   29.5
   28.5
   28.2
   25.4
   25.7
   28.6
   29.8
   Plt
   489
   511
   509
   538
   506
   511
   544
   Cr
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   137
   89
   98
   85
   81
   64
   86
   Other labs: PT / PTT / INR:19.7/29.4/1.8, CK / CKMB /
   Troponin-T:472/4/<0.01, ALT / AST:[**11-19**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:75.7 %, Lymph:14.9 %, Mono:5.6 %, Eos:3.6 %,
   Fibrinogen:633 mg/dL, Lactic Acid:1.3 mmol/L, LDH:156 IU/L, Ca++:8.1
   mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: linear atelectasis at right base.
   Assessment and Plan
 MUSCLE PERFORMACE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 DELIRIUM / CONFUSION
 NAUSEA / VOMITING
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   METABOLIC ACIDOSIS
   ANEMIA
   =========================
   Patient feeling better; ambulating on unit. Taking meds orally. HR
   under good control.
   Serum bicarb has been rising, presumably related to NG suction, which
   has not been discontinued.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition: Meds orally.
   Glycemic Control:
   Lines:
   PICC Line - [**2176-9-8**] 11:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: VAP bundle not indicated
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes